US04801717
A mixture of 35 g of 2-fluoro-benzoyl chloride and 400 ml of ethanol was stirred for three hours and was allowed to stand overnight. The mixture was distilled to dryness at 50° C. and 30-40 mm Hg and the residue was taken up in methylene chloride The solution was washed with 5% aqueous sodium bicarbonate and then with water, dried and evaporated to dryness under reduced pressure. The product was rectified at 14 mm Hg to obtain 34 g of ethyl 2-fluoro-benzoate with a boiling point of 90°-91° C. at 14 mm Hg.

reactant | 2-fluoro-benzoyl chloride | 35 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | ethyl 2-fluoro-benzoate | 34 g | FC1=C(C(=O)OCC)C=CC=C1 | C9H9FO2
